US07572921B2
A mixture of 4-{2-[[1-(3,5-dichloro-benzyl)-1H-imidazol-2-ylmethyl]-(3-fluoro-benzyl)-amino]-ethyl}-piperazine-1-carboxylic acid tert-butyl ester (92 mg, 0.16 mmol) and 4N HCl/dioxane (5 mL) was stirred at ambient temperature for 2 h. The solvent was removed in vacuo and water (5 mL) added. The pH of the solution was adjusted to pH 9 by addition of 1N NaOH and the mixture extracted with CH2Cl2 (2×20 mL). The combined CH2Cl2 extracts were dried over Na2SO4 and concentrated in vacuo to afford [1-(3,5-dichloro-benzyl)-1H-imidazol-2-ylmethyl]-(3-fluoro-benzyl)-(2-piperazin-1-yl-ethyl)-amine (74 mg, 98%) as colorless a viscous oil: ESI MS m/z 476 [C24H28Cl2FN5+H]+.

reactant | 4-{2-[[1-(3,5-dichloro-benzyl)-1H-imidazol-2-ylmethyl]-(3-fluoro-benzyl)-amino]-ethyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.16 mmol, 92 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CCN(CC1=CC(=CC=C1)F)CC=1N(C=CN1)CC1=CC(=CC(=C1)Cl)Cl | C29H36Cl2FN5O2
reactant | HCl dioxane | 4N, 5 mL | Cl.O1CCOCC1
product | [1-(3,5-dichloro-benzyl)-1H-imidazol-2-ylmethyl]-(3-fluoro-benzyl)-(2-piperazin-1-yl-ethyl)-amine | 74 mg, 98% | ClC=1C=C(CN2C(=NC=C2)CN(CCN2CCNCC2)CC2=CC(=CC=C2)F)C=C(C1)Cl | C24H28Cl2FN5
